US07368461B2
(S)—N-[2-(3,4-Dichlorophenyl)-4-[4-(2-oxo-piperidin-1-yl)piperidino]butyl]-N-methyl-3-fluorobenzamide
3-Fluorobenzoyl chloride (0.088 mL) was reacted with (S)-1′-[3-(3,4-dichloro-phenyl)-4-methylamino-butyl]-[1,4]bipiperidinyl-2-one (0.30 g) in dichloromethane (78 mL) overnight. The reaction was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate. The organic extracts were dried, evaporated, and purified by chromatography, with dichloromethane:methanol (gradient 97:3, 94:6) as eluent to give the title compound (0.28 g). Rf=0.36 in methylene chloride:methanol (95:5). MS: m/z=534 (M+). The product was dissolved in methanol (2 mL) and citric acid was added. The solution was concentrated and the residue was triturated with ether. The product was obtained as a white foam (0.093 g).

reactant | 3-Fluorobenzoyl chloride | 0.088 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | (S)-1′-[3-(3,4-dichloro-phenyl)-4-methylamino-butyl]-[1,4]bipiperidinyl-2-one | 0.30 g | ClC=1C=C(C=CC1Cl)[C@H](CCN1CCC(CC1)N1C(CCCC1)=O)CNC | C21H31Cl2N3O
solvent | dichloromethane | 78 mL | ClCCl | CH2Cl2
product | (S)—N-[2-(3,4-Dichlorophenyl)-4-[4-(2-oxo-piperidin-1-yl)piperidino]butyl]-N-methyl-3-fluorobenzamide | 0.28 g | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC(=CC=C1)F)=O)C)CCN1CCC(CC1)N1C(CCCC1)=O | C28H34Cl2FN3O2
